US08937091B2
2-(N,N-diphenyl)aminoethyl-2-pyridylketone 8337
2-acetylpyridine (121 mg), diphenyl amine (169 mg), and paraformaldehyde (40 mg) were reacted in dioxane (0.2 ml) at 130° C. for 2 hours.

reactant | 2-acetylpyridine | 121 mg | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | diphenyl amine | 169 mg | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | paraformaldehyde | 40 mg | C=O | CH2O
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 2-(N,N-diphenyl)aminoethyl-2-pyridylketone | C1(=CC=CC=C1)N(C1=CC=CC=C1)CCC(=O)C1=NC=CC=C1 | C20H18N2O
